US05017724
3.4 Milliliters of a methanol solution of 40% methylamine was added to a methanol solution containing 2 g of 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone in 20 ml of methanol and the mixture was refluxed under heating for 4 hours. Then, thereto were further added 10 ml of methanol and 3.4 ml of a methanol solution of 40% methyl amine, followed by refluxing for 6 hours. After left to stand for cooling, 3.66 g of sodium borohydride was gradually added thereto with stirring at room temperature, followed by stirring for 1 hour at the same temperature. Then, water was added to the reaction mixture and extraction was effected with chloroform. The organic layer was dried with magnesium sulfate and then the solvent was distilled off. The residue was purified by a silica gel column chromatography (eluent: ethyl acetate:n-hexane=1:1) and then recrystallized from ethanol to obtain 0.70 g of 5,7-dimethyl-8-hydroxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene.

reactant | methylamine | CN | CH5N
reactant | 5,7-dimethyl-8-hydroxy-1,2,3,4,4a,9a-hexahydro-9-fluorenone | 2 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)=O | C15H18O2
reactant | sodium borohydride | 3.66 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 3.4 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dimethyl-8-hydroxy-9-methylamino-1,2,3,4,4a,9a-hexahydrofluorene | 0.70 g | CC1=C2C3CCCCC3C(C2=C(C(=C1)C)O)NC | C16H23NO
